US06921763B2
To a mixture of tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (1.2 g, 0.0027 mol) in acetone (20 mL) was added an aqueous 6N solution of hydrogen chloride (8 mL) at room temperature. The mixture was stirred at 45° C. for 1.5 hours, and then room temperature for 16 hours. The precipitate was filtered and washed with acetone. The solid was dried to give 3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride (1 g, 0.0024 mol).

reactant | tert-butyl 3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.0027 mol, 1.2 g | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | hydrogen chloride | 8 mL | Cl | ClH
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 3-iodo-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride | 0.0024 mol, 1 g | Cl.Cl.IC1=NN(C2=NC=NC(=C21)N)C2CNCCC2 | InChI=1S/C10H13IN6.2ClH/c11-8-7-9(12)14-5-15-10(7)17(16-8)6-2-1-3-13-4-6;;/h5-6,13H,1-4H2,(H2,12,14,15);2*1H
